US07504411B2
A solution of (4-(6-fluorobenzo[b]thiophen-3-yl)piperidin-1-yl) phenylmethanone (6.5 g, 19 mmol) in acetic acid (100 mL) and concentrated hydrochloric acid (100 mL) was stirred at 90° C. for 10 h. To a solution of reaction mixture was added ethyl acetate. The precipitated crystals were collected by filtration and washed with ethyl acetate to give 4-(6-fluorobenzo[b]thiophen-3-yl)piperidine hydrochloride (4.8 g, 89%) as yellow crystals.

reactant | (4-(6-fluorobenzo[b]thiophen-3-yl)piperidin-1-yl) phenylmethanone | 19 mmol, 6.5 g | FC=1C=CC2=C(SC=C2C2CCN(CC2)C(=O)C2=CC=CC=C2)C1 | C20H18FNOS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-(6-fluorobenzo[b]thiophen-3-yl)piperidine hydrochloride | 4.8 g, 89% | Cl.FC=1C=CC2=C(SC=C2C2CCNCC2)C1 | InChI=1S/C13H14FNS.ClH/c14-10-1-2-11-12(8-16-13(11)7-10)9-3-5-15-6-4-9;/h1-2,7-9,15H,3-6H2;1H
